US08623907B2
Step 2: Preparation of 4-bromo-1-ethyl-2-iodobenzene
To a stirred mixture of 5-bromo-2-ethylaniline (3.39 g, 200 mmol) in distilled water (110 ml) is added concentrated sulfuric acid (5.60 ml), followed by brief heating at reflux until dissolution. The mixture is allowed to cool to room temperature, producing a fine precipitate, then further cooled to approximately 0° C. in an ice/salt bath. To this slurry is added an aqueous solution of sodium nitrite (1.17 g, 16.94 mmol) in distilled water (10 ml) dropwise over 15 minutes, maintaining a temperature below 5° C., followed by additional stirring for 30 minutes. The reaction mixture is next filtered then added to a second solution of aqueous potassium iodide (8.44 g, 50.83 mmol) in distilled water (45 ml) dropwise at room temperature. After the addition is complete the solution is briefly heated to 80° C. then allowed to cool to room temperature again. The reaction mixture is extracted with ethyl acetate (3×50 ml), and the organic phase is washed with 1M aqueous hydrochloric acid (30 ml) and aqueous sodium thiosulfate (2×30 ml). After drying over anhydrous magnesium sulfate and concentration in vacuo 4-bromo-1-ethyl-2-iodobenzene (4.90 g) is furnished as an orange liquid.

reactant | 5-bromo-2-ethylaniline | 200 mmol, 3.39 g | BrC=1C=CC(=C(N)C1)CC | C8H10BrN
reactant | sulfuric acid | 5.60 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 16.94 mmol, 1.17 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 50.83 mmol, 8.44 g | [I-].[K+]
solvent | water | 110 ml | O | H2O
solvent | water | 10 ml | O | H2O
solvent | water | 45 ml | O | H2O
product | 4-bromo-1-ethyl-2-iodobenzene | BrC1=CC(=C(C=C1)CC)I | C8H8BrI
